US07652015B2
[4-(5-Amino-3-methyl-pyridin-2-yloxy)-piperidin-1-yl]-(2-fluoro-phenyl)-methanone
Stir a mixture of (2-fluoro-phenyl)-[4-(3-methyl-5-nitro-pyridin-2-yloxy)-piperidin-1-yl]-methanone (3.58 g, 10 mmol) and 10% palladium on carbon (358 mg) in ethanol (100 mL) at 22° C. under hydrogen overnight. Filter to remove catalyst. Concentrate filtrate to provide a colorless oil. Subject oil to silica gel chromatography eluting with hexanes and ethyl acetate (1:1), followed by 70% ethyl acetate/hexanes to give a yellow solid (2.27 g, 50% yield). MS(ES): m/z=330.2 [M+H].

reactant | (2-fluoro-phenyl)-[4-(3-methyl-5-nitro-pyridin-2-yloxy)-piperidin-1-yl]-methanone | 10 mmol, 3.58 g | FC1=C(C=CC=C1)C(=O)N1CCC(CC1)OC1=NC=C(C=C1C)[N+](=O)[O-] | C18H18FN3O4
catalyst | palladium on carbon | 358 mg | [Pd] | Pd
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | [4-(5-Amino-3-methyl-pyridin-2-yloxy)-piperidin-1-yl]-(2-fluoro-phenyl)-methanone | 2.27 g, 50% yield | NC=1C=C(C(=NC1)OC1CCN(CC1)C(=O)C1=C(C=CC=C1)F)C | C18H20FN3O2
